US07304161B2
To a round bottom flask equipped with an overhead stirrer and a nitrogen inlet was added piperonylic acid (50.0 g, 301 mmol) and tetrahydrofuran (753 mL). This was cooled to −75° C. in a dry ice-acetone bath. N-Butyllithium (1.6 M in hexanes) (414 mL, 662 mmol) was added dropwise maintaining the temperature of the reaction at or below −65° C. When the addition was complete the cooling bath was removed and the reaction was allowed to warm to −20° C. The reaction was returned to the bath and cooled to at least −60° C. at which time iodomethane (37.5 mL, 602 mmol) was added dropwise. Cooling was removed and the reaction allowed to warm to 10° C. at which time the reaction was placed in an ice bath and stirred at 0° C. for 30 minutes. The reaction was quenched by addition of 1N HCl and the tetrahydrofuran removed by evaporation. The residue was slurried in 1N HCl and filtered. The filtrate was washed with water, and dried at 50–60° C. in vacuo to give a pale yellow solid, 4-methyl-benzo[1,3]dioxole-5-carboxylic acid (52.8 g, 293 mmol) in 97% yield. 1H-NMR (300 MHz, CD3COCD3) δ (ppm): 2.44 (s, 3H), 6.10 (s, 2H), 6.77 (d, 1H), 7.64 (d, 1H). TLC Rf=0.54 (1:1 ethyl acetate/hexane, piperonylic acid=0.41).

reactant | piperonylic acid | 301 mmol, 50.0 g | C(C1=CC=2OCOC2C=C1)(=O)O | C8H6O4
reactant | N-Butyllithium | 662 mmol, 1.6 M, 414 mL | [Li+].CCC[CH2-]
reactant | iodomethane | 602 mmol, 37.5 mL | IC | CH3I
solvent | tetrahydrofuran | 753 mL | O1CCCC1 | C4H8O
product | 4-methyl-benzo[1,3]dioxole-5-carboxylic acid | 293 mmol, 52.8 g, 97% yield | CC1=C(C=CC=2OCOC21)C(=O)O | C9H8O4
